US07034052B2
To a solution of (1R)-[1-(3-ethoxy-4-methoxy-phenyl)-3-oxo-butyl]-carbamic acid tert-butyl ester (1 g, 3 mmol) in THF (10 mL) was added a solution of methyl lithium (4 mL, 3M, 12 mmol) at 0° C. To the mixture was added methanol (5 mL). The residue was extracted with ethyl acetate (50 mL) and NH4Cl (sat, 25 mL). The organic layer was washed with brine (100 mL) and dried over MgSO4. The solvent was removed in vacuo. The residue was purified with preparative HPLC to give (R)-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxy-3-methyl-butyl]-carbamic acid tert-butyl ester (150 mg, 14% yield).

reactant | (1R)-[1-(3-ethoxy-4-methoxy-phenyl)-3-oxo-butyl]-carbamic acid tert-butyl ester | 3 mmol, 1 g | C(C)(C)(C)OC(N[C@H](CC(C)=O)C1=CC(=C(C=C1)OC)OCC)=O | C18H27NO5
reactant | methyl lithium | 12 mmol, 3M, 4 mL | C[Li]
reactant | methanol | 5 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-[1-(3-ethoxy-4-methoxy-phenyl)-3-hydroxy-3-methyl-butyl]-carbamic acid tert-butyl ester | 150 mg, 14% yield | C(C)(C)(C)OC(N[C@H](CC(C)(C)O)C1=CC(=C(C=C1)OC)OCC)=O | C19H31NO5
